US07629358B2
Preparation 36: 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid methyl ester
3-{2-[(2R)-2-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(tert-butyldimethyl-silanyloxy)ethylamino]-2-methylpropyl}benzoic acid methyl ester (Preparation 35) (2.12 g, 3.70 mmol) and palladium-on-carbon (10%, 300 mg) in methanol (50 ml) were hydrogenated at room temperature and 60 psi for 18 hours. The reaction mixture was filtered through arbocel and the filtrate concentrated in vacuo, the residue was purified by flash column chromatography on silica gel eluting with dichloromethane:methanol:ammonia (95:5:0.5 by volume) to furnish the title compound, this material was taken up in diethylether and evaporated (×3) to yield a white foam (1.50 g).

reactant | 3-{2-[(2R)-2-(4-benzyloxy-3-hydroxymethyl-phenyl)-2-(tert-butyldimethyl-silanyloxy)ethylamino]-2-methylpropyl}benzoic acid methyl ester | 3.70 mmol, 2.12 g | COC(C1=CC(=CC=C1)CC(C)(C)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)OCC1=CC=CC=C1)CO)=O | C34H47NO5Si
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-carbon | 300 mg | [Pd] | Pd
product | 3-{2-[(2R)-2-(tert-butyldimethylsilanyloxy)-2-(4-hydroxy-3-hydroxymethyl-phenyl)ethylamino]-2-methylpropyl}benzoic acid methyl ester | COC(C1=CC(=CC=C1)CC(C)(C)NC[C@@H](C1=CC(=C(C=C1)O)CO)O[Si](C)(C)C(C)(C)C)=O | C27H41NO5Si
